US06331640B1
3-(benzoylamino)-N-[2-chloro-4-[[(2,3-dihydro-2-oxo-1H-indol-4-ylmethyl)amino]carbonyl]benzoyl]-L-alanine;
3-(benzoylamino)-N-[2-chloro-4-[[(1H-indol-4-ylmethyl)amino]carbonyl]benzoyl]-L-alanine; N-[2-chloro-4-[[(1H-benzimidazol-4-ylmethyl)amino]carbonyl]benzoyl]-3-(thiophene-2-carbonyl)amino-L-alanine; N-[2-chloro-4-[[(1H-indol-4-ylmethyl)amino]carbony]benzoyl]-3-(thiophene-2-carbonyl)amino-L-alanine; N-[2-chloro-4-[[(2,3-dihydro-1H-indol-4-ylmethyl)amino]carbonyl]benzoyl]-3-(thiophene-2-carbonyl)amino-L-alanine; N-[2-bromo-4-[[(1H-indol-4-ylmethyl)amino]carbonyl]benzoyl]-3-(thiophene-2-carbonyl)amino-L-alanine; N-[2-chloro-4-[[(1H-indol-4-ylmethyl)amino]carbonyl]benzoyl]-3-(thiophene-3-carbonyl)anino-L-alanine; N-[2-chloro-4-[[(1H-indol-4-ylmethyl)amino]carbonyl]benzoyl]-3-[(5-methylthiophene-2-carbony)]amino-L-alanine), and N-[2-chloro-4-[[[(1H-indazol-4-yl)methyl]amino]carbonyl]benzoyl]-3-(thiophene-2-carbonyl)amino-L-alanine.

reactant | 3-(benzoylamino)-N-[2-chloro-4-[[(1H-indol-4-ylmethyl)amino]carbonyl]benzoyl]-L-alanine | C(C1=CC=CC=C1)(=O)NC[C@H](NC(C1=C(C=C(C=C1)C(=O)NCC1=C2C=CNC2=CC=C1)Cl)=O)C(=O)O | C27H23ClN4O5
reactant | N-[2-chloro-4-[[(1H-benzimidazol-4-ylmethyl)amino]carbonyl]benzoyl]-3-(thiophene-2-carbonyl)amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(=O)C=2SC=CC2)C(=O)O)C=CC(=C1)C(=O)NCC1=CC=CC=2NC=NC21 | C24H20ClN5O5S
reactant | N-[2-chloro-4-[[(1H-indol-4-ylmethyl)amino]carbony]benzoyl]-3-(thiophene-2-carbonyl)amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(=O)C=2SC=CC2)C(=O)O)C=CC(=C1)C(=O)NCC1=C2C=CNC2=CC=C1 | C25H21ClN4O5S
reactant | N-[2-chloro-4-[[(2,3-dihydro-1H-indol-4-ylmethyl)amino]carbonyl]benzoyl]-3-(thiophene-2-carbonyl)amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(=O)C=2SC=CC2)C(=O)O)C=CC(=C1)C(=O)NCC1=C2CCNC2=CC=C1 | C25H23ClN4O5S
reactant | N-[2-bromo-4-[[(1H-indol-4-ylmethyl)amino]carbonyl]benzoyl]-3-(thiophene-2-carbonyl)amino-L-alanine | BrC1=C(C(=O)N[C@@H](CNC(=O)C=2SC=CC2)C(=O)O)C=CC(=C1)C(=O)NCC1=C2C=CNC2=CC=C1 | C25H21BrN4O5S
reactant | N-[2-chloro-4-[[(1H-indol-4-ylmethyl)amino]carbonyl]benzoyl]-3-(thiophene-3-carbonyl)anino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(=O)C2=CSC=C2)C(=O)O)C=CC(=C1)C(=O)NCC1=C2C=CNC2=CC=C1 | C25H21ClN4O5S
reactant | N-[2-chloro-4-[[(1H-indol-4-ylmethyl)amino]carbonyl]benzoyl]-3-[(5-methylthiophene-2-carbony)]amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(=O)C=2SC(=CC2)C)C(=O)O)C=CC(=C1)C(=O)NCC1=C2C=CNC2=CC=C1 | C26H23ClN4O5S
reactant | N-[2-chloro-4-[[[(1H-indazol-4-yl)methyl]amino]carbonyl]benzoyl]-3-(thiophene-2-carbonyl)amino-L-alanine | ClC1=C(C(=O)N[C@@H](CNC(=O)C=2SC=CC2)C(=O)O)C=CC(=C1)C(=O)NCC1=C2C=NNC2=CC=C1 | C24H20ClN5O5S
product | 3-(benzoylamino)-N-[2-chloro-4-[[(2,3-dihydro-2-oxo-1H-indol-4-ylmethyl)amino]carbonyl]benzoyl]-L-alanine | C(C1=CC=CC=C1)(=O)NC[C@H](NC(C1=C(C=C(C=C1)C(=O)NCC1=C2CC(NC2=CC=C1)=O)Cl)=O)C(=O)O | C27H23ClN4O6
